US08252798B2
2-[2-Methyl-6-(4-methyl-piperazin-1-yl)-9-(tetrahydro-pyran-4-yl)-9H-purin-8-yl]-benzonitrile hydrochloride salt
Charge a microwave reaction vessel with 8-(2-Bromo-phenyl)-2-methyl-6-(4-methyl-piperazin-1-yl)-9-(tetrahydro-pyran-4-yl)-9H-purine (0.0015 mol, 0.7 g), zinc cyanide (0.0022 mol, 0.256 g, 1.5 equiv.), and dry N,N-dimethylformamide (5.0 mL). Degas three times with nitrogen. Add Pd(PPh3)4 (0.0001 mol, 0.17 g, 0.1 equiv.) and degas again three times with nitrogen. Seal the reaction vessel and irradiate at 150° C. for 1 hour in microwave. Cool the reaction mixture to room temperature, quench the reaction mixture with water and extract with ethyl acetate. Wash the organic layer with brine, dry over anhydrous sodium sulfate, filter, and concentrate under reduced pressure to give a residue. Purify the residue on silica gel column eluting with dichloromethane:methanol 99:1 to give the freebase. Add HCl (2M solution in diethyl ether) (0.026 g, 0.0007 mol, 1.0 equiv.) to the mixture of 2-(2-methyl-6-(4-methylpiperazin-1-yl)-9-(tetrahydro-2H-pyran-4-yl)-9H-purin-8-yl)benzonitrile (0.3 g, 0.0007 mol) in diethyl ether (5 mL) at 0° C. and stir for 2 hours at room temperature. Filter the precipitate, wash with diethyl ether, and dry in a vacuum to give the title compound. MS (m/z): 418.29 (M+1).

reactant | 8-(2-Bromo-phenyl)-2-methyl-6-(4-methyl-piperazin-1-yl)-9-(tetrahydro-pyran-4-yl)-9H-purine | 0.0015 mol, 0.7 g | BrC1=C(C=CC=C1)C=1N(C2=NC(=NC(=C2N1)N1CCN(CC1)C)C)C1CCOCC1 | C22H27BrN6O
reactant | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
reactant | HCl | 0.0007 mol, 2M, 0.026 g, 1.0 equiv. | Cl | ClH
reactant | 2-(2-methyl-6-(4-methylpiperazin-1-yl)-9-(tetrahydro-2H-pyran-4-yl)-9H-purin-8-yl)benzonitrile | 0.0007 mol, 0.3 g | CC1=NC(=C2N=C(N(C2=N1)C1CCOCC1)C1=C(C#N)C=CC=C1)N1CCN(CC1)C | C23H27N7O
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
catalyst | zinc cyanide | 0.0022 mol, 0.256 g, 1.5 equiv. | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd(PPh3)4 | 0.0001 mol, 0.17 g, 0.1 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[2-Methyl-6-(4-methyl-piperazin-1-yl)-9-(tetrahydro-pyran-4-yl)-9H-purin-8-yl]-benzonitrile hydrochloride salt | Cl.CC1=NC(=C2N=C(N(C2=N1)C1CCOCC1)C1=C(C#N)C=CC=C1)N1CCN(CC1)C | InChI=1S/C23H27N7O.ClH/c1-16-25-22(29-11-9-28(2)10-12-29)20-23(26-16)30(18-7-13-31-14-8-18)21(27-20)19-6-4-3-5-17(19)15-24;/h3-6,18H,7-14H2,1-2H3;1H
